US08957070B2
2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylic acid
A mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (1.00 g), potassium (1-chloro-2-ethoxy-1-formyl-2-oxoethyl) (1.18 g), acetic acid (855 mg) and N,N-dimethylacetamide (20 mL) was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried over magnesium sulfate and filtrated. The filtrate was concentrated, and the residue was subjected to silica gel column chromatography and eluted with an ethyl acetate-hexane (1:1) mixture to give a solid. The solid was mixed with tetrahydrofuran (3 mL), ethanol (3 mL) and 1N sodium hydroxide (5 mL), and the mixture was stirred at 60° C. for 3 days. The reaction mixture was acidified with 1N hydrochloric acid, diluted with ethyl acetate and washed with saturated brine. The organic layer was washed with sodium sulfate, filtrated, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and eluted with a methanol.ethyl acetate (1:5) mixture. The obtained solid was recrystallized from a methanol-ethyl acetate (1:10) mixed solvent to give the title compound (32 mg, yield 2.7%) as crystals. melting point 258-260° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 1.00 g | CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C14H13N3O2S3
reactant | potassium | 1.18 g | [K] | K
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | acetic acid | 855 mg | C(C)(=O)O | C2H4O2
product | 2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylic acid | 32 mg, yield 2.7% | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)C(=O)O)S(=O)(=O)C=1SC=CC1 | C17H13N3O4S3
